US07652022B2
Stage 128.4: N-(4-Methyl-3-trifluoromethyl-phenyl)-2.2.2-trifluoro-acetamide
To an ice-cooled solution of 5-amino-2-methylbenzotrifluoride (3.77 g, 21.5 mmol) and pyridine (17.3 ml, 215 mmol) in 50 ml of CH2Cl2 under N2-atmosphere, trifluoroacetic acid anhydride (3.3 ml, 23 mmol) is added dropwise. After warming up to rt, the mixture is diluted with CH2Cl2 and washed 3× with a 10% solution of citric acid in water. The aqueous layers are extracted twice with CH2Cl2, the organic phases dried (Na2SO4) and concentrated. Sublimation in a Kugelrohr oven (0.1 mbar; oven at 150° C.) yields the title compound: m.p.: 72-74° C.

reactant | 5-amino-2-methylbenzotrifluoride | 21.5 mmol, 3.77 g | NC=1C=CC(=C(C1)C(F)(F)F)C | C8H8F3N
reactant | pyridine | 215 mmol, 17.3 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic acid anhydride | 23 mmol, 3.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-Methyl-3-trifluoromethyl-phenyl)-2.2.2-trifluoro-acetamide | CC1=C(C=C(C=C1)NC(C(F)(F)F)=O)C(F)(F)F | C10H7F6NO
